Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.56319457825
[C:8]([H:9])#[C:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11],-2.2491655131
[C:1]#[C:2][O:3][C:4][H:5].[C:6]([H:7])[O:8][H:9]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-6.218581541259999
[C:1]#[C:2][C:3]([C:4]#[C:5])=[C:6]([H:7])[H:8]>>[C:1]#[C:2][C:4][C:5]([H:7])[H:8].[C:3]#[C:6],3.25185613622
[H:3].[O:1]=[C:2]=[C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.56742560281
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2],6.27702627236
[H:16].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14][H:15]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-4.96267749936
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2].[O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.09487007804
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]#[C:8][H:9],2.7347584637
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.8398595484699993
[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[O:8]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])[H:11],-5.31719618574
[H:1][C:2]=[C:3]([C:4][O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:5]>>[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-3.76470090302
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[H:4],2.29189595015
[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7]=[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],1.82080564555
[C:7](=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-2.19429073966
[H:1][O:2]/[C:3]=[C:4](/[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1].[O:2]=[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],1.01523805386
[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[O:5]>>[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-0.55516771825
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:9]([H:10])([H:11])[O:12][H:13].[H:8],4.99232309426
[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]1[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:8][C:10]([H:11])([H:12])[H:13])([H:7])[C:9],6.2730376338800005
[C:3]([C:4][C:5][H:6])#[C:7][C:8][H:9].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]#[C:8][H:9],-7.30855449469
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],2.7876431702599995
[C:1]#[C:2][O:3][C:4][H:5].[C:6]#[C:7][H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8],-6.41817178875
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[O:10],-0.0221619134204
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:13].[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12],4.595278481459999
[H:1][O:2]/[C:3]([H:4])=[C:5]1\[O:6][C:7]1([H:8])[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([O:6])([H:8])[H:9],2.71993976833
[O:1][C@@:2]([H:3])([C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4](=[O:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3],0.3117046557189999
[H:11].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11],-4.11697857386
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13],-4.12096165389
[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]1>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])[H:7])[C:10]#[C:8][H:9],1.0206679413
